US08426441B2
(6-Chloro-pyridin-3-yl)-morpholin-4-yl-methanone
To a solution of 6-chloro nicotinic acid (1.11 g, 7.04 mmol) in CH2Cl2 at 0 C was added EDCI (2.70 g, 14.08 mmol) and HOBt and then the resulting mixture was stirred for 30 minutes at 0 C. After that, morpholine (2.46 ml, 28.17 mmol) was added, the ice-bath removed and the reaction was done in 15 minutes. Water was added, the mixture was extracted with CH2Cl2, dried over MgSO4 and concentrated to afford 1.55 g of product.

reactant | 6-chloro nicotinic acid | 7.04 mmol, 1.11 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | EDCI | 14.08 mmol, 2.70 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | morpholine | 28.17 mmol, 2.46 ml | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (6-Chloro-pyridin-3-yl)-morpholin-4-yl-methanone | 1.55 g | ClC1=CC=C(C=N1)C(=O)N1CCOCC1 | C10H11ClN2O2
